US06908913B2
7-(Thiophen-2-yl)carbonylimidazo[5,1-b]thiazole (1.37 g) was prepared in the same manner as in step a) of Synthesis Example 3, except that 1.50 g of 7-iodoimidazo[5,1-b]thiazole and 0.561 ml of thiophene-2-aldehyde were used as the starting compounds.

reactant | 7-iodoimidazo[5,1-b]thiazole | 1.50 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | thiophene-2-aldehyde | 0.561 ml | S1C(=CC=C1)C=O | C5H4OS
product | 7-(Thiophen-2-yl)carbonylimidazo[5,1-b]thiazole | 1.37 g | S1C(=CC=C1)C(=O)C=1N=CN2C1SC=C2 | C10H6N2OS2
